US06967208B2
N-({1-(4-methoxyphenyl)-7-oxo-6-[4-(2-oxo-1(2H)-pyridinyl)phenyl]-4,5,6,7-tetrahydro-1H-pyrazolo[3,4-c]pyridin-3-yl}carbonyl)methanesulfonamide
To 1-(4-methoxyphenyl)-7-oxo-6-[4-(2-oxo-1(2H)-pyridinyl)phenyl]-4,5,6,7-tetrahydro-1H-pyrazolo[3,4-c]pyridine-3-carboxylic acid (0.2 g, 0.43 mmol) in CH2Cl2 (10 mL) was added 1-[3-(dimethylamino)propyl]-3-ethyl carbodiimide hydrochloride (0.1 g, 0.5 mmol) and TEA (0.18 mL, 1.3 mmol) and the reaction was stirred for 15 min. 1-Hydroxybenzotriazole (71 mg, 0.5 mmol) was added and the reaction was stirred for 15 min. Methane sulfonamide (0.125 g, 1.3 mmol) and DMF (1 mL) were added and the reaction was stirred for 72 h. The solvents were removed and after purification by HPLC and freeze-drying 75 mg (33%) white solid was obtained; High Resolution Mass Spec (M+H)+ for C26H24N5O6S 534.1468.

reactant | 1-(4-methoxyphenyl)-7-oxo-6-[4-(2-oxo-1(2H)-pyridinyl)phenyl]-4,5,6,7-tetrahydro-1H-pyrazolo[3,4-c]pyridine-3-carboxylic acid | 0.43 mmol, 0.2 g | COC1=CC=C(C=C1)N1N=C(C2=C1C(N(CC2)C2=CC=C(C=C2)N2C(C=CC=C2)=O)=O)C(=O)O | C25H20N4O5
reactant | 1-[3-(dimethylamino)propyl]-3-ethyl carbodiimide hydrochloride | 0.5 mmol, 0.1 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-Hydroxybenzotriazole | 0.5 mmol, 71 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | Methane sulfonamide | 1.3 mmol, 0.125 g | CS(=O)(=O)N | CH5NO2S
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | N-({1-(4-methoxyphenyl)-7-oxo-6-[4-(2-oxo-1(2H)-pyridinyl)phenyl]-4,5,6,7-tetrahydro-1H-pyrazolo[3,4-c]pyridin-3-yl}carbonyl)methanesulfonamide | COC1=CC=C(C=C1)N1N=C(C2=C1C(N(CC2)C2=CC=C(C=C2)N2C(C=CC=C2)=O)=O)C(=O)NS(=O)(=O)C | C26H23N5O6S
